US06180625B2
6-Amino-2-(2,6-difluoro-phenyl)-benzo[d][1,3]oxazin-4-one (15).
6-Nitro-2-(2,6-difluoro-phenyl)-benzo[d][1,3]oxazin-4-one (50 mg) was dissolved in acetic acid (5 mL) under N2, PtO2 (2.5 mg) was added and the mixture was hydrogenated with H2 gas. Reaction time 2 h. The reaction mixture was filtered through Hyflo®, which was rinsed afterwards with ethyl acetate. The combined organic phases were evaporated to dryness and subsequently treated three times with toluene followed by evaporation.

reactant | 6-Nitro-2-(2,6-difluoro-phenyl)-benzo[d][1,3]oxazin-4-one | 50 mg | [N+](=O)([O-])C1=CC2=C(N=C(OC2=O)C2=C(C=CC=C2F)F)C=C1 | C14H6F2N2O4
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
catalyst | PtO2 | 2.5 mg | O=[Pt]=O
product | 6-Amino-2-(2,6-difluoro-phenyl)-benzo[d][1,3]oxazin-4-one | NC1=CC2=C(N=C(OC2=O)C2=C(C=CC=C2F)F)C=C1 | C14H8F2N2O2
